US08877815B2
Synthesis of (Z)-Tert-butyl 2-cyano-3-(4-(pyridin-2-yl)phenyl)acrylate
To a solution of 4-(pyridin-2-yl)-benzaldehyde (300 mg, 1.638 mmol) in EtOH (5 ml) at room temperature was added tert-butyl 2-cyanoacetate (0.281 ml, 1.965 mmol) followed by piperidine (0.016 ml, 0.164 mmol). The mixture was stirred at 73° C. overnight. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. To the obtained mixture was added water and then extracted with DCM. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by flash chromatography (silica gel, 15 to 30% EtOAc/Heptane) and gave the title compound: 350 mg (yield: 70%). LCMS (condition B): 307.2 (M+1); retention time=1.30 min.

reactant | 4-(pyridin-2-yl)-benzaldehyde | 1.638 mmol, 300 mg | N1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
reactant | tert-butyl 2-cyanoacetate | 1.965 mmol, 0.281 ml | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | piperidine | 0.164 mmol, 0.016 ml | N1CCCCC1 | C5H11N
solvent | EtOH | 5 ml | CCO | C2H6O
product | (Z)-Tert-butyl 2-cyano-3-(4-(pyridin-2-yl)phenyl)acrylate | yield: 70% | C(#N)/C(/C(=O)OC(C)(C)C)=C/C1=CC=C(C=C1)C1=NC=CC=C1 | C19H18N2O2
